US04062952
A. 4-isopropylnitrobenzene
To 100 g. of cumene at 10° C. is slowly added over a period of 2.5hours to a mixture of 70.5 ml. of concentrated nitric acid and 109ml. of concentrated sulfuric acid. The reaction mixture is stirred at 5° to 10° C. for 1 hour following the addition. The reaction mixture is poured onto 250 ml. of ice water and extracted with ether. The ether is dried and evaporated in vacuo and the residue distilled at 9.5 to 10.5 mm./Hg. The fraction boiling at 130° C. is taken and used as is in the next step.

reactant | cumene | C1(=CC=CC=C1)C(C)C | C9H12
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-isopropylnitrobenzene | C(C)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H11NO2
